US06350761B1
A mixture of 3-cyanobenzaldehyde (2.0 g) and (triphenylphosphoranylidene) acetaldehyde (5.0 g) in 100 mL CH2Cl2 was stirred at reflux for 16 hours. The reaction was cooled, concentrated and purified on silica gel column (ethyl acetate/hexane=3/7) to afford 2.2 g of 3-cyano-1-(2-formylethenyl)benzene as a yellow oil.

reactant | 3-cyanobenzaldehyde | 2.0 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | (triphenylphosphoranylidene) acetaldehyde | 5.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-cyano-1-(2-formylethenyl)benzene | 2.2 g | C(#N)C=1C=C(C=CC1)C=CC=O | C10H7NO
